### PR TITLE
[Merged by Bors] - feat(SetTheory/Ordinal): prove that `ε₀` and `Γ₀` are countable

### PR DESCRIPTION
**Pull request by emlis42**
This PR proves that `ε₀` and `Γ₀` are countable, i.e. `Countable (ToType ε₀)` and `Countable (ToType Γ₀)`.

This completes a TODO in `SetTheory/Ordinal/Veblen.lean`.

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 1]
```diff
@@ -723,4 +724,90 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+section Countable
+
+open Cardinal
+
+variable {ι : Type*} [Countable ι]
+
+theorem countable_Iio_of_lt_omega_one (h : o < ω₁) : Countable (Set.Iio o) := by
+  rw [← ord_aleph 1, lt_ord] at h
+  rw [← mk_le_aleph0_iff, Cardinal.mk_Iio_ordinal,
+    lift_le_aleph0, ← succ_aleph0, Order.lt_succ_iff] at *
```
Comment (felixpernegger) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]:
```suggestion
theorem countable_Iio_of_lt_omega_one (h : o < ω₁) : (Iio o).Countable := by
  rw [← ord_aleph 1, lt_ord] at h
  rw [← countable_coe_iff, ← mk_le_aleph0_iff, Cardinal.mk_Iio_ordinal,
    lift_le_aleph0, ← succ_aleph0, Order.lt_succ_iff] at *
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 2]
```diff
@@ -723,4 +724,90 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+  exact h
+
+theorem countable_toType_of_lt_omega_one (h : o < ω₁) : Countable (ToType o) := by
+  rw [← Cardinal.mk_le_aleph0_iff, Cardinal.mk_toType,
+    ← Cardinal.lt_aleph_one_iff, ← Cardinal.lt_omega_iff_card_lt]
+  exact h
+
+instance [h : Fact <| o < ω₁] : Countable (Set.Iio o) := countable_Iio_of_lt_omega_one h.out
```
Comment (felixpernegger) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]:
```suggestion
instance [h : Fact <| o < ω₁] : Countable (Iio o) := countable_Iio_of_lt_omega_one h.out
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 3]
```diff
@@ -723,4 +724,90 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+theorem isPrincipal_veblen_omega_one : IsPrincipal veblen ω₁ := by
+  intro α
+  induction α using WellFoundedLT.induction with
+  | _ α ih =>
+    intro β hα hβ
+    rcases eq_or_ne α 0 with rfl | hα'
+    · rw [veblen_zero_apply]
+      exact omega0_opow_lt_omega_one hβ
+    · rw [veblen_of_ne_zero hα']
+      haveI : Fact _ := ⟨hα⟩
```
Comment (felixpernegger) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]:
```suggestion
      have : Fact _ := ⟨hα⟩
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 4]
```diff
@@ -723,4 +724,90 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+  | zero =>
+    rw [derivFamily_zero]
+    exact nfpFamily_lt_omega_one_of_forall_lt_omega_one hf <| omega_pos 1
+  | add_one p ih =>
+    have hp : p < ω₁ := lt_of_le_of_lt (le_succ p) ho
+    rw [derivFamily_add_one]
+    exact nfpFamily_lt_omega_one_of_forall_lt_omega_one hf <| (isSuccLimit_omega 1).succ_lt <| ih hp
+  | limit o hlim ih =>
+    rw [derivFamily_limit f hlim]
+    haveI : Fact _ := ⟨ho⟩
```
Comment (felixpernegger) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]:
```suggestion
    have : Fact _ := ⟨ho⟩
```

**Comment by plp127** [comment]
does this generalize to something like `(ε_ o).card = max o.card ℵ₀`

**Comment by emlis42** [comment]
> does this generalize to something like `(ε_ o).card = max o.card ℵ₀`

It does. In fact, I have proved
```lean
theorem Ordinal.card_epsilon (o : Ordinal) : (ε_ o).card = max o.card ℵ₀
````
Should we add this to the current PR or open a new one? The current PR is already close to 90 lines and was intended to complete a TODO.

**Comment by plp127** [comment]
> > does this generalize to something like `(ε_ o).card = max o.card ℵ₀`
> 
> It does. In fact, I have proved
> 
> ```lean
> theorem Ordinal.card_epsilon (o : Ordinal) : (ε_ o).card = max o.card ℵ₀
> ```

I think we should be showing countability of `ε₀` as a special case of this theorem instead, then, if it's not too much more work to prove.

**Comment by emlis42** [comment]
Updated. The proof now uses cardinalities.

**Comment by vihdzp** [comment]
Sorry for the delay, I'll review this in a few hours.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 5]
```diff
@@ -723,4 +724,129 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+
+theorem countable_Iio_of_lt_omega_one (h : o < ω₁) : (Iio o).Countable := by
+  rw [← ord_aleph 1, lt_ord] at h
+  rw [← countable_coe_iff, ← mk_le_aleph0_iff, Cardinal.mk_Iio_ordinal,
+    lift_le_aleph0, ← succ_aleph0, Order.lt_succ_iff] at *
+  exact h
+
+theorem countable_toType_of_lt_omega_one (h : o < ω₁) : Countable (ToType o) := by
+  rw [← mk_le_aleph0_iff, mk_toType, ← lt_aleph_one_iff, ← lt_omega_iff_card_lt]
+  exact h
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: Golfing:
```suggestion
theorem countable_toType_of_lt_omega_one (h : o < ω₁) : Countable (ToType o) := by
  rwa [← mk_le_aleph0_iff, mk_toType, card_le_iff, succ_aleph0, ord_aleph]

theorem countable_Iio_of_lt_omega_one (h : o < ω₁) : (Iio o).Countable := by
  rw [← countable_coe_iff, ← ToType.mk.symm.toEquiv.countable_iff]
  exact countable_toType_of_lt_omega_one h
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 6]
```diff
@@ -723,4 +724,129 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+
+instance [h : Fact <| o < ω₁] : Countable (Iio o) := countable_Iio_of_lt_omega_one h.out
+
+instance [h : Fact <| o < ω₁] : Countable (ToType o) := countable_toType_of_lt_omega_one h.out
+
+theorem card_nfpFamily_le {f : ι → Ordinal → Ordinal}
+    {c : Cardinal} (hc : ℵ₀ ≤ c) (hι : #(Shrink ι) ≤ c)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: You should declare `ι : Type v`, and write the `hι` hypothesis as:
```suggestion
    {c : Cardinal} (hc : ℵ₀ ≤ c) (hι : Cardinal.lift.{u} #ι ≤ Cardinal.lift.{v} c)
```
Then you won't need the `Small ι` hypothesis, since it follows from this inequality.

I plan to introduce universe-homogeneous cardinal comparisons in the future, so we'll be able to rewrite this hypothesis as `#ι ≤ₗ c` when that happens.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 7]
```diff
@@ -723,4 +724,129 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+    Cardinal.lift_id, mk_unit, Cardinal.lift_one, one_le_aleph0]
+
+theorem card_deriv_le_of_forall_le {f : Ordinal → Ordinal}
+    (hf : ∀ x, (f x).card ≤ max ℵ₀ x.card) :
+    (deriv f o).card ≤ max ℵ₀ o.card := by
+  apply card_derivFamily_le (le_refl ℵ₀) ?_ (fun () => hf)
+  grw [← Cardinal.lift_le.{u, u}, lift_mk_shrink,
+    Cardinal.lift_id, mk_unit, Cardinal.lift_one, one_le_aleph0]
+
+theorem card_veblen_le (a b : Ordinal) : (veblen a b).card ≤ max ℵ₀ (max a.card b.card) := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: This should be an equality as long as `a` and `b` are not both zero. This would also give you a more direct proof of `card_epsilon`.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 8]
```diff
@@ -723,4 +724,129 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+  · exact aleph0_le_card.mpr <| omega0_lt_gamma o |>.le
+  · exact card_le_card isNormal_gamma.strictMono.le_apply
+
+theorem epsilon_lt_omega_one_of_lt_omega_one (ho : o < ω₁) : ε_ o < ω₁ := by
+  simp_all [card_epsilon, lt_omega_iff_card_lt]
+
+theorem epsilon_zero_lt_omega_one : ε₀ < ω₁ :=
+  epsilon_lt_omega_one_of_lt_omega_one <| omega_pos 1
+
+theorem countable_toType_epsilon_zero : Countable (ToType ε₀) :=
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: I think we should generally avoid writing theorems about `ToType`. But if you do want to have this, it should probably be an instance.

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 5 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: Also, can we have the analogous theorems for finite ordinals too?

Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: added `finite_{toType, Iio}_of_lt_omega0`.

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 7 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: updated, thanks!

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 6 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: updated, thanks!

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 8 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: using `instance` now.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 9]
```diff
@@ -723,4 +724,143 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
 
+section Countable
+
+open Cardinal
+
+universe v
+
+variable {ι : Type v}
+
+theorem countable_toType_of_lt_omega_one (h : o < ω₁) : Countable (ToType o) := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: These theorems should all be on an earlier file. `Cardinal.Aleph` might be a good home for the ones about `ω₁`, the ones about finite ordinals could probably go even earlier.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 10]
```diff
@@ -723,4 +724,143 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+    obtain rfl | ha := eq_or_ne a 0
+    · simpa using card_opow_le ω b
+    rw [veblen_of_ne_zero ha, ← max_assoc]
+    apply card_derivFamily_le (le_max_left _ _) (by simp)
+    intro i x
+    grw [ih i i.2 x, max_assoc]
+    apply sup_le_sup_left (c := ℵ₀) <| sup_le_sup_right ?_ x.card
+    simp [card_le_card i.2.le]
+
+theorem card_veblen_eq (a b : Ordinal) (h : a ≠ 0 ∨ b ≠ 0) :
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: I think this should be split up into two theorems, one for the hypothesis `a ≠ 0`, and one for the hypothesis `b ≠ 0`. These could be called `card_veblen_of_left_ne_zero` and `card_veblen_of_right_ne_zero`.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 11]
```diff
@@ -723,4 +724,143 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+    (veblen a b).card = max ℵ₀ (max a.card b.card) := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: This is more consistent with how we write this elsewhere.
```suggestion
    (veblen a b).card = max (max a.card b.card) ℵ₀ := by
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 12]
```diff
@@ -723,4 +724,143 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+
+instance [h : Fact <| o < ω] : Finite (ToType o) := finite_toType_of_lt_omega0 h.out
+
+instance [h : Fact <| o < ω] : Finite (Iio o) := finite_Iio_of_lt_omega0 h.out
+
+theorem card_nfpFamily_le {f : ι → Ordinal → Ordinal}
+    {c : Cardinal} (hc : ℵ₀ ≤ c) (hι : Cardinal.lift.{u} #ι ≤ Cardinal.lift.{v} c)
+    (hf : ∀ i x, (f i x).card ≤ max c x.card) (o : Ordinal) :
+    (nfpFamily f o).card ≤ max c o.card := by
+  haveI : Small.{u} ι := HasCardinalLT.small <|
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: I think there's a missing lemma `lift #ι ≤ lift c` for `c : Cardinal.{u}` implies `Small.{u} ι`. It should follow quickly from `small_iff_lift_mk_lt_univ`.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 13]
```diff
@@ -723,4 +724,143 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+
+instance [h : Fact <| o < ω₁] : Countable (ToType o) := countable_toType_of_lt_omega_one h.out
+
+instance [h : Fact <| o < ω₁] : Countable (Iio o) := countable_Iio_of_lt_omega_one h.out
+
+instance [h : Fact <| o < ω] : Finite (ToType o) := finite_toType_of_lt_omega0 h.out
+
+instance [h : Fact <| o < ω] : Finite (Iio o) := finite_Iio_of_lt_omega0 h.out
+
+theorem card_nfpFamily_le {f : ι → Ordinal → Ordinal}
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: This lemma and the others about `derivFamily`/`nfpFamily` should go in the `Family` file.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 14]
```diff
@@ -723,4 +724,143 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+    apply card_derivFamily_le (le_max_left _ _) (by simp)
+    intro i x
+    grw [ih i i.2 x, max_assoc]
+    apply sup_le_sup_left (c := ℵ₀) <| sup_le_sup_right ?_ x.card
+    simp [card_le_card i.2.le]
+
+theorem card_veblen_eq (a b : Ordinal) (h : a ≠ 0 ∨ b ≠ 0) :
+    (veblen a b).card = max ℵ₀ (max a.card b.card) := by
+  apply le_antisymm (card_veblen_le a b)
+  have hω : ω ≤ veblen a b := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: Likewise, we could have `omega0_le_veblen_of_left` and `omega0_le_veblen_of_right` for both cases here.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 15]
```diff
@@ -723,4 +724,143 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+
+theorem card_epsilon (o : Ordinal) : (ε_ o).card = max ℵ₀ o.card := by
+  rw [card_veblen_eq 1 o (Or.inl one_ne_zero), card_one, ← max_assoc, max_eq_left one_le_aleph0]
+
+theorem card_gamma (o : Ordinal) : (Γ_ o).card = max ℵ₀ o.card := by
+  apply le_antisymm (card_deriv_le_of_forall_le (by simpa using card_veblen_le · 0)) (max_le ?_ ?_)
+  · exact aleph0_le_card.mpr <| omega0_lt_gamma o |>.le
+  · exact card_le_card isNormal_gamma.strictMono.le_apply
+
+theorem epsilon_lt_omega_one_of_lt_omega_one (ho : o < ω₁) : ε_ o < ω₁ := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: You can replace `ω₁` by `ω_ x` as long as `x ≠ 0`.

File: Mathlib/SetTheory/Cardinal/Ordinal.lean [hunk 16]
```diff
@@ -174,6 +175,56 @@ theorem card_omega0_opow {a : Ordinal} (h : a ≠ 0) : card (ω ^ a) = max ℵ
 theorem card_opow_omega0 {a : Ordinal} (h : 1 < a) : card (a ^ ω) = max ℵ₀ a.card := by
   rw [card_opow_eq_of_omega0_le_right h le_rfl, card_omega0, max_comm]
 
+theorem card_nfpFamily_le {ι : Type v} {f : ι → Ordinal → Ordinal}
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Ordinal.lean]: More specifically, I think this should go right before `card_opow_le_of_omega0_le_left`, this file has a block of lemmas about ordinal exponentiation that you're breaking by placing these theorems here.

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 17]
```diff
@@ -1388,6 +1388,17 @@ theorem not_lt_enum_ord_mk_min_compl [IsWellOrder α r] {s : Set α} (hfin : s.F
...
     card_typein_min_le_mk]
 
+theorem finite_toType_of_lt_omega0 {o} (h : o < ω) : Finite (ToType o) := by
+  rwa [← mk_lt_aleph0_iff, mk_toType, card_lt_aleph0]
+
+theorem finite_Iio_of_lt_omega0 {o} (h : o < ω) : (Iio o).Finite := by
+  rw [← finite_coe_iff, ← ToType.mk.symm.toEquiv.finite_iff]
+  exact finite_toType_of_lt_omega0 h
+
+instance {o} [h : Fact <| o < ω] : Finite (ToType o) := finite_toType_of_lt_omega0 h.out
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Basic.lean]: Are these `Fact`s ever going to be used in practice, or do you plan on using them? If not, I think we can remove these instances, and keep only the theorems.

File: Mathlib/SetTheory/Ordinal/Univ.lean [hunk 18]
```diff
@@ -191,4 +191,10 @@ theorem small_iff_lift_mk_lt_univ {α : Type u} :
   · rintro ⟨c, hc⟩
     exact ⟨⟨c.out, lift_mk_eq.{u, _, v + 1}.1 (hc.trans (congr rfl c.mk_out.symm))⟩⟩
 
+theorem small_of_lift_mk_le_lift {c : Cardinal.{u}} {α : Type v}
+    (hα : lift.{u} #α ≤ lift.{v} c) : Small.{u} α := by
+  rw [small_iff_lift_mk_lt_univ]
+  apply (lift_lt_univ' c).trans_le'
+  simpa only [lift_lift] using lift_le.{u + 1, max u v}.mpr hα
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Univ.lean]: Shorter proof:
```suggestion
  induction c using inductionOn with | mk α
  exact small_of_injective (lift_mk_le'.1 hα).some.injective
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 9 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: moved the `countable` theorems to `Cardinal.Aleph` and the `finite` theorems to `Ordinal.Basic`.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 19]
```diff
@@ -723,4 +722,81 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+    grw [ih i i.2 x, max_right_comm]
+    apply sup_le_sup_right (c := x.card) <| sup_le_sup_right ?_ ℵ₀
+    simp [card_le_card i.2.le]
+
+private theorem le_card_veblen_aux (a b : Ordinal) : max a.card b.card ≤ (veblen a b).card := by
+  apply max_le
+  · exact card_le_card (left_le_veblen a b)
+  · exact card_le_card (right_le_veblen a b)
+
+theorem omega0_le_veblen_of_left_ne_zero (a b : Ordinal) (ha : a ≠ 0) : ω ≤ veblen a b :=
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: I think this lemma and the next one should go a bit earlier in the file, since they're not really about cardinality.

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 10 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: updated, thanks!

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 11 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: updated, thanks!

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 14 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: updated, thanks!

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 15 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: updated, thanks!

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 20]
```diff
@@ -723,4 +722,81 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+  calc ω ≤ veblen 1 b := omega0_lt_epsilon b |>.le
+    _ ≤ veblen a b := veblen_left_monotone b <| Order.one_le_iff_ne_zero.mpr ha
+
+theorem omega0_le_veblen_of_right_ne_zero (a b : Ordinal) (hb : b ≠ 0) : ω ≤ veblen a b :=
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: `b` should be implicit. Analogously for the other lemmas.

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 12 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: added `Cardinal.small_of_lift_mk_le_lift` in `Ordinal.Univ`.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 21]
```diff
@@ -723,4 +722,81 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+  exact max_le (le_card_veblen_aux a b) <|
+    aleph0_le_card.mpr <| omega0_le_veblen_of_left_ne_zero a b ha
+
+theorem card_veblen_eq_of_right_ne_zero (a b : Ordinal) (hb : b ≠ 0) :
+    (veblen a b).card = max (max a.card b.card) ℵ₀ := by
+  apply le_antisymm (card_veblen_le a b)
+  exact max_le (le_card_veblen_aux a b) <|
+    aleph0_le_card.mpr <| omega0_le_veblen_of_right_ne_zero a b hb
+
+theorem card_veblen_eq (a b : Ordinal) (h : a ≠ 0 ∨ b ≠ 0) :
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: I don't think we need this theorem, since the only way you'd ever get an `a ≠ 0 ∨ b ≠ 0` hypothesis in practise is you had either an `a ≠ 0` hypothesis or a `b ≠ 0` hypothesis.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 22]
```diff
@@ -723,4 +722,81 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+  rw [card_veblen_eq_of_left_ne_zero 1 o one_ne_zero,
+    card_one, max_right_comm, max_eq_right one_le_aleph0]
+
+theorem card_gamma (o : Ordinal) : (Γ_ o).card = max ℵ₀ o.card := by
+  apply le_antisymm (card_deriv_le_of_forall_le (by simpa [Or.comm] using card_veblen_le · 0))
+    (max_le ?_ ?_)
+  · exact aleph0_le_card.mpr <| omega0_lt_gamma o |>.le
+  · exact card_le_card isNormal_gamma.strictMono.le_apply
+
+theorem epsilon_lt_omega_of_lt_omega_of_ne_zero (hx : x ≠ 0) (ho : o < ω_ x) : ε_ o < ω_ x := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: I think it should be fine to omit `of_ne_zero` from the name, for the sake of brevity.
```suggestion
theorem epsilon_lt_omega_of_lt_omega (hx : x ≠ 0) (ho : o < ω_ x) : ε_ o < ω_ x := by
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 23]
```diff
@@ -723,4 +722,81 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+  simp_all [card_epsilon, lt_omega_iff_card_lt, hx.pos]
+
+theorem epsilon_zero_lt_omega_one : ε₀ < ω₁ :=
+  epsilon_lt_omega_of_lt_omega_of_ne_zero one_ne_zero <| omega_pos 1
+
+instance : Countable (ToType ε₀) :=
+  countable_toType_of_lt_omega_one epsilon_zero_lt_omega_one
+
+theorem gamma_lt_omega_of_lt_omega_of_ne_zero (hx : x ≠ 0) (ho : o < ω_ x) : Γ_ o < ω_ x := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: Same here.
```suggestion
theorem gamma_lt_omega_of_lt_omega (hx : x ≠ 0) (ho : o < ω_ x) : Γ_ o < ω_ x := by
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 13 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: I put these theorems in `Cardinal.Ordinal` because they require some results from there. More importantly, there is a dependency chain:
`Ordinal.Family` → `Ordinal.Exponential` → `Ordinal.FixedPoint` (which defines `nfpFamily`) → `Ordinal.Principal` → `Cardinal.Ordinal` (`card_iSup_le_sum_card` needed here).

File: Mathlib/SetTheory/Cardinal/Ordinal.lean (hunk 16 above)
Comment (emlis42) [reply Mathlib/SetTheory/Cardinal/Ordinal.lean]: updated, thanks!

File: Mathlib/SetTheory/Ordinal/Basic.lean (hunk 17 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Basic.lean]: it was used once in an old proof, but we can now remove it.

File: Mathlib/SetTheory/Ordinal/Univ.lean (hunk 18 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Univ.lean]: updated, thanks!

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 20 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: updated, thanks!

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 21 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: updated, thanks!

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 22 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: updated, thanks!

File: Mathlib/SetTheory/Cardinal/Aleph.lean [hunk 24]
```diff
@@ -558,6 +558,13 @@ theorem countable_iff_lt_aleph_one {α : Type*} (s : Set α) : s.Countable ↔ #
 theorem preAleph_of_omega0_sq_le {o : Ordinal} (ho : ω ^ 2 ≤ o) : preAleph o = ℵ_ o := by
   simpa [← ord_inj] using preOmega_of_omega0_sq_le ho
 
+theorem countable_toType_of_lt_omega_one {o : Ordinal} (h : o < ω₁) : Countable (ToType o) := by
+  rwa [← mk_le_aleph0_iff, mk_toType, card_le_iff, succ_aleph0, ord_aleph]
+
+theorem countable_Iio_of_lt_omega_one {o : Ordinal} (h : o < ω₁) : (Iio o).Countable := by
+  rw [← countable_coe_iff, ← ToType.mk.symm.toEquiv.countable_iff]
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Aleph.lean]:
```suggestion
  rw [← countable_coe_iff, ToType.mk.toEquiv.countable_iff]
```

File: Mathlib/SetTheory/Cardinal/Ordinal.lean [hunk 25]
```diff
@@ -122,6 +123,56 @@ theorem card_sSup_le {c : Cardinal} {s : Set Ordinal.{u}}
...
+    rw [derivFamily_limit f ho]
+    apply card_iSup_Iio_le_card_mul_iSup _ |>.trans <|
+      mul_le_mul' (Cardinal.lift_le.mpr <| le_max_right c o.card)
+        (ciSup_le' (a := max c o.card) ?_) |>.trans ?_
+    · exact fun ⟨i, hi⟩ => ih _ hi |>.trans <| max_le_max_left _ (card_le_card hi.le)
+    · grw [Cardinal.lift_id, ← sq, power_nat_le (by simp [hc])]
+
+theorem card_nfp_le_of_forall_le {o : Ordinal} {f : Ordinal → Ordinal}
+    (hf : ∀ x, (f x).card ≤ max ℵ₀ x.card) : (nfp f o).card ≤ max ℵ₀ o.card :=
+  card_nfpFamily_le (le_refl ℵ₀) (by simp) (fun () => hf) o
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Ordinal.lean]: Same below.
```suggestion
  card_nfpFamily_le le_rfl (by simp) (fun _ => hf) o
```

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 26]
```diff
@@ -1388,6 +1388,13 @@ theorem not_lt_enum_ord_mk_min_compl [IsWellOrder α r] {s : Set α} (hfin : s.F
   grw [← typein_le_typein, typein_enum, Cardinal.le_ord_iff_card_le_of_lt_aleph0 _ hfin.lt_aleph0,
     card_typein_min_le_mk]
 
+theorem finite_toType_of_lt_omega0 {o} (h : o < ω) : Finite (ToType o) := by
+  rwa [← mk_lt_aleph0_iff, mk_toType, card_lt_aleph0]
+
+theorem finite_Iio_of_lt_omega0 {o} (h : o < ω) : (Iio o).Finite := by
+  rw [← finite_coe_iff, ← ToType.mk.symm.toEquiv.finite_iff]
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Basic.lean]:
```suggestion
  rw [← finite_coe_iff, ToType.mk.toEquiv.finite_iff]
```

Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Basic.lean]:
```suggestion
  rw [← finite_coe_iff, ToType.mk.toEquiv.finite_iff]
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 27]
```diff
@@ -723,4 +734,67 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+    apply card_derivFamily_le (le_max_right _ _) (by simp)
+    intro i x
+    grw [ih i i.2 x, max_right_comm]
+    apply sup_le_sup_right (c := x.card) <| sup_le_sup_right ?_ ℵ₀
+    simp [card_le_card i.2.le]
+
+private theorem le_card_veblen_aux (a b : Ordinal) : max a.card b.card ≤ (veblen a b).card := by
+  apply max_le
+  · exact card_le_card (left_le_veblen a b)
+  · exact card_le_card (right_le_veblen a b)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: You can put this in a single line, if you'd like.
```suggestion
private theorem le_card_veblen_aux (a b : Ordinal) : max a.card b.card ≤ (veblen a b).card :=
  max_le (card_le_card (left_le_veblen a b)) (card_le_card (right_le_veblen a b))
```

**Review by vihdzp — COMMENTED** [review]
A few more small remarks, this already looks quite good to me.

**Review by vihdzp — APPROVED** [review]
Looks good to me, thank you for doing this!

File: Mathlib/SetTheory/Ordinal/Univ.lean [hunk 28]
```diff
@@ -191,4 +191,9 @@ theorem small_iff_lift_mk_lt_univ {α : Type u} :
   · rintro ⟨c, hc⟩
     exact ⟨⟨c.out, lift_mk_eq.{u, _, v + 1}.1 (hc.trans (congr rfl c.mk_out.symm))⟩⟩
 
+theorem small_of_lift_mk_le_lift {c : Cardinal.{u}} {α : Type v}
+    (hα : lift.{u} #α ≤ lift.{v} c) : Small.{u} α := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Univ.lean:195]: Isn't there an iff hiding here? something like 
```suggestion
theorem small_of_lift_mk_le_lift {α : Type v} : Small.{u} α \iff lift.{u + 1} #α ≤ lift.{v} #(Type u) := by
```
along with the fact that `lift.{u + 1} c ≤ #(Type u)` for `c : Cardinal.{u}`.

Comment (plp127) [reply Mathlib/SetTheory/Ordinal/Univ.lean:195]: That sounds like `Cardinal.small_iff_lift_mk_lt_univ`

Comment (plp127) [reply Mathlib/SetTheory/Ordinal/Univ.lean:195]: and the other one is `Cardinal.lift_lt_univ`

Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Univ.lean]: This iff doesn't hold for general universe levels actually since we have `not_small_type`.
```lean
theorem not_small_iff_lift_mk_le_lift : ¬ (∀ {α : Type (v + 1)},
    Small.{v} α ↔ lift.{v + 1} #α ≤ lift.{v + 1} #(Type v)) := by
  push ¬ _; use Type v; simpa using not_small_type
```
Maybe we can add this one below?
```lean
theorem small_iff_exists_lift_mk_le_lift {α : Type u} :
    Small.{v} α ↔ ∃ c : Cardinal.{v}, lift.{v} #α ≤ lift.{u} c := by
  refine ⟨fun ⟨c, ⟨e⟩⟩ => ⟨#c, lift_mk_le'.mpr ⟨e⟩⟩, fun ⟨c, hc⟩ => small_of_lift_mk_le_lift hc⟩
```
Here is an [#MVE](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMBQOJgCmAdnAMJJQAmwxS6eArscAG6FQDOhcjcreALSC4aQtEIg4xCDAD6nEPXRzgAMzVzMa%2BSADWWwlvXwAXDmFwrVgDVwAFIAAiOAG9AjcBxTcACoBPIrwAvgA0FiLWcADKSujoAHQurIFwHoAphHDaMAmscADUcACMyQDEHoAmRBkmCYwl9n4BrACUjZ4AvHBYvmFW6ITwfKbtOfkFOGISUjLyisqqGsY6cvqGC2Zwdk6uHl71PPbDhY0hOBHRytnJaZU62XmFJeXXWYl3RXDFdf48TS2DHV1WMCMTiodZwOQAbl43B8X34UM4oDASGhtAA5tJZAoYioYF8hCJxlBJHAZrE5ppMksDL1VltPLCAjVPN1TjiLik4OlMrcRg84BUeS5mR9dvxfu1Ot1ev02vwxqhxMSpGSVOpKSZqStMvSdnCkiy2edEpcuU9efd3o8hQbRfqJf8TnBiWpaDxABfkamY4LgrQAfHAAPxyYJwL2kOS%2BgOqpZIAAeKUAl%2BRO1BIdhwVAFBk60pwAA85EoNDo8WYbDlVPQ8jLOTkTqgAHc4ABtQAJhHBltBi%2FQALpwFAZ0ZWRstqnAKgAcmyoYORR7TqQYDA6F8g7ivTiMCgSGInHrhFdxB4y1pEE0tAAVoQAMYwNh7NRy8NwCBRhyAVkJIxBGnEIIwYC0wZOrQW6viiWAZkguBWIQcZILe%2Fa9GAqBxJeN53um9idKSSIosC6JwNeEDEGiUAAIJQBiFDULQ9BxPokFYI0eAKkqJIxmeqxarSOouNeDLUd28Qmsk7gMmKNROlY9ioNs5omlaArycy16%2FFE7IKdskoAnAtBUIwt7AMRhGoiRunEPphnEQA8qQDbAGgcAAD4dnoKROrB8HwBx57EFehmYVSJ6EFOWayT%2BnAQCAhCoX56H3ngRLsTiFJyLBwCcDAnBccFdJiXqTLJOYRqxByVyAMBEJleIJtHCUkoY2vygpVMKyT8X8UrDgebpwJ63ruteobuoQiaJm%2B7rFINTzcSF9FgFAvUjYmobPgNoaoNeY3%2BqSKWcUFNJGDqG3JkAA).

Comment (YaelDillies) [reply Mathlib/SetTheory/Ordinal/Univ.lean]: Sure, sounds good

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 29]
```diff
@@ -717,4 +728,65 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+  exact max_le (le_card_veblen_aux a b) <|
+    aleph0_le_card.mpr <| omega0_le_veblen_of_left_ne_zero b ha
+
+theorem card_veblen_eq_of_right_ne_zero (a : Ordinal) {b : Ordinal} (hb : b ≠ 0) :
+    (veblen a b).card = max (max a.card b.card) ℵ₀ := by
+  apply le_antisymm (card_veblen_le a b)
+  exact max_le (le_card_veblen_aux a b) <|
+    aleph0_le_card.mpr <| omega0_le_veblen_of_right_ne_zero a hb
+
+theorem card_epsilon (o : Ordinal) : (ε_ o).card = max ℵ₀ o.card := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:734]: Should this be simp? Same for `gamma`

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 30]
```diff
@@ -594,6 +593,18 @@ theorem natCast_lt_epsilon (n : ℕ) (o : Ordinal) : n < ε_ o :=
...
+    {a : Ordinal} (b : Ordinal) (ha : a ≠ 0) : ω ≤ veblen a b :=
+  calc ω ≤ veblen 1 b := omega0_lt_epsilon b |>.le
+    _ ≤ veblen a b := veblen_left_monotone b <| Order.one_le_iff_ne_zero.mpr ha
+
+theorem omega0_le_veblen_of_right_ne_zero
+    (a : Ordinal) {b : Ordinal} (hb : b ≠ 0) : ω ≤ veblen a b :=
+  calc ω = ω ^ 1 := opow_one _ |>.symm
+    _ ≤ ω ^ b := opow_le_opow_right omega0_pos <| Order.one_le_iff_ne_zero.mpr hb
+    _ = veblen 0 b := veblen_zero_apply b |>.symm
+    _ ≤ veblen a b := veblen_left_monotone b zero_le
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]: Maybe use `grw` instead of `calc` here? Same above

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 31]
```diff
@@ -717,4 +728,65 @@ theorem invVeblen₁_eq_iff : invVeblen₁ o = o ↔ o = 0 ∨ o ∈ range Γ_ :
...
+    apply card_derivFamily_le (le_max_right _ _) (by simp)
+    intro i x
+    grw [ih i i.2 x, max_right_comm]
+    apply sup_le_sup_right (c := x.card) <| sup_le_sup_right ?_ ℵ₀
+    simp [card_le_card i.2.le]
+
+private theorem le_card_veblen_aux (a b : Ordinal) : max a.card b.card ≤ (veblen a b).card :=
+  max_le (card_le_card (left_le_veblen a b)) (card_le_card (right_le_veblen a b))
+
+theorem card_veblen_eq_of_left_ne_zero {a : Ordinal} (b : Ordinal) (ha : a ≠ 0) :
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Veblen.lean]:
```suggestion
theorem card_veblen_of_left_ne_zero {a : Ordinal} (b : Ordinal) (ha : a ≠ 0) :
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 29 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean:734]: updated, thanks!

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 31 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: updated, thanks!

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 30 above)
Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: Using `grw` needs a `show` here as well. I think `calc` would be clearer.
```lean
theorem omega0_le_veblen_of_left_ne_zero
    {a : Ordinal} (b : Ordinal) (ha : a ≠ 0) : ω ≤ veblen a b := by
  grw [omega0_lt_epsilon b |>.le,
    show ε_ b ≤ _ from veblen_left_monotone b <| Order.one_le_iff_ne_zero.mpr ha]
--  Did not find a rewrite with `(fun x ↦ veblen x b) 1 ≤ _` in `ε_ b ≤ veblen a b`

theorem omega0_le_veblen_of_right_ne_zero
    (a : Ordinal) {b : Ordinal} (hb : b ≠ 0) : ω ≤ veblen a b := by
  grw [← opow_one ω, opow_le_opow_right omega0_pos <| Order.one_le_iff_ne_zero.mpr hb,
    ← veblen_zero_apply b, show veblen .. ≤ _ from veblen_left_monotone b zero_le]
--  Did not find a rewrite with `(fun x ↦ veblen x b) 0 ≤ _` in `veblen 0 b ≤ veblen a b`
```

**Comment by emlis42** [comment]
-awaiting-author

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 30 above)
Comment (YaelDillies) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: Doesn't that mean we're missing some inequality lemma about `\epsilon_`?

Comment (emlis42) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: added `epsilon_le_veblen_of_ne_zero`, thanks!

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by jcommelin** [comment]
bors d+
